US09353075B2
Step 2. Preparation of 2,2-dimethyl-4-phenyl-butan-1-ol
At 0° C., under nitrogen atmosphere, to a stirring mixture of LiAlH4 (0.49 g, 12.8 mmol) in dry Et2O (25 mL), 2,2-dimethyl-4-phenyl-butanoic acid (0.62 g, 3.22 mmol) dissolved in Et2O (10 mL) was added dropwise. The mixture was left at rt for 4 h, then quenched at 0° C. by slowly adding H2O (0.5 mL) followed by 3M KOH solution (0.5 mL) and H2O (1.64 mL). The mixture was stirred for 1 h at 0° C., then the crude was filtered and the organic phase dried over Na2SO4. The organic solution was concentrated to dryness affording the title compound (0.540 g, 94%) as pale yellow transparent oil. 1H NMR (CDCl3): δ 0.96 (s, 6H), 1.55-1.64 (m, 2H), 2.58-2.65 (m, 2H) 3.41 (s, 2H), 7.17-7.33 (m, 5H).

reactant | LiAlH4 | 12.8 mmol, 0.49 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,2-dimethyl-4-phenyl-butanoic acid | 3.22 mmol, 0.62 g | CC(C(=O)O)(CCC1=CC=CC=C1)C | C12H16O2
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 2,2-dimethyl-4-phenyl-butan-1-ol | 0.540 g, 94% | CC(CO)(CCC1=CC=CC=C1)C | C12H18O
